US09388189B2
b) (S)—N-(3-Methoxy-5-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-pyrazol-1-yl)phenyl)methanesulfonamide
(S)-2-(1-((5-(1-(3-Amino-5-methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (15.3 mg, 0.02 mol) was dissolved in 2 ml pyridine and triethylamine (5 μl, 0.04 mol). The mixture was submitted to three vacuum-argon cycles and was cooled at 0° C. with an ice bath. Methanesulfonyl chloride (2 μl, 0.03 mol) was added dropwise and the reaction mixture was stirred for 2 h. The solvent was concentrated and the residue was partitioned between ethyl acetate and a saturated sodium bicarbonate solution. The organic phase was dried over sodium sulphate and evaporated under reduced pressure, to obtain 16.6 mg (94% yield) of the title compound. Purity 72%.

reactant | (S)-2-(1-((5-(1-(3-Amino-5-methoxyphenyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.02 mol, 15.3 mg | NC=1C=C(C=C(C1)OC)N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C37H42N10O3Si
reactant | triethylamine | 0.04 mol, 5 μl | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.03 mol, 2 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (S)—N-(3-Methoxy-5-(3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-pyrazol-1-yl)phenyl)methanesulfonamide | 16.6 mg, 94% yield | COC=1C=C(C=C(C1)N1N=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)C | C38H44N10O5SSi
